US06492421B1
Synthesis of N-(Toluene-4-sulfonyl)-L-prolyl-4-[3-(N-methyl-N-benzylamino)propoxy]-L-phenylalanine Methyl Ester
The title compound was prepared via O-alkylation of N-(toluene-4-sulfonyl)-L-prolyl-L-tyrosine methyl ester with 3-(N-benzyl,N-methyl)aminopropyl chloride in refluxing 2-butanone in the presence of potassium carbonate and sodium iodide to provide a solid, mp=60-70° C.

reactant | N-(toluene-4-sulfonyl)-L-prolyl-L-tyrosine methyl ester | COC([C@@H](NC([C@H]1N(CCC1)S(=O)(=O)C1=CC=C(C=C1)C)=O)CC1=CC=C(C=C1)O)=O | C22H26N2O6S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | [I-].[Na+]
reactant | 2-butanone | CC(CC)=O | C4H8O
product | N-(Toluene-4-sulfonyl)-L-prolyl-4-[3-(N-methyl-N-benzylamino)propoxy]-L-phenylalanine Methyl Ester | COC([C@@H](NC([C@H]1N(CCC1)S(=O)(=O)C1=CC=C(C=C1)C)=O)CC1=CC=C(C=C1)OCCCN(CC1=CC=CC=C1)C)=O | C33H41N3O6S
